US05021413
4-methyl 1-(5-methyl-3-oxoindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperazine dihydrochloride
The procedure described in Example 24 was repeated, but using 1.0 g of 1-methyl-3-(pyrrolidin-1-ylmethyl)piperazine trihydrochloride, 2.1 ml of triethylamine and 0.75 g of 5-methyl-3-oxoindan-1-carbonyl chloride, to afford 0.84 g of the title compound, melting at 220°-223° C. (dec.).

reactant | 1-methyl-3-(pyrrolidin-1-ylmethyl)piperazine trihydrochloride | 1.0 g | Cl.Cl.Cl.CN1CC(NCC1)CN1CCCC1
reactant | 5-methyl-3-oxoindan-1-carbonyl chloride | 0.75 g | CC=1C=C2C(CC(C2=CC1)C(=O)Cl)=O | C11H9ClO2
solvent | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
product | 4-methyl 1-(5-methyl-3-oxoindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperazine dihydrochloride | 0.84 g | Cl.Cl.CN1CC(N(CC1)C(=O)C1CC(C2=CC(=CC=C12)C)=O)CN1CCCC1 | InChI=1S/C21H29N3O2.2ClH/c1-15-5-6-17-18(11-15)20(25)12-19(17)21(26)24-10-9-22(2)13-16(24)14-23-7-3-4-8-23;;/h5-6,11,16,19H,3-4,7-10,12-14H2,1-2H3;2*1H
